US09056874B2
(7-Methyl-1-tosyl-5-(((2-(trimethylsilyl)ethoxy)methoxy)methyl)-1H-indol-4-yl)methanol
To a solution (±)-(7-methyl-4-(((tetrahydro-2H-pyran-2-yl)oxy)methyl)-1-tosyl-1H-indol-5-yl)methanol (200 mg, 0.466 mmol) and iPr2EtN (0.16 mL, 0.93 mmol) in CH2Cl2 (2 mL) was added SEMCl (0.124 mL, 0.69 mmol), and then the mixture was stirred at 40° C. for 1 hr. The reaction mixture was concentrated (during the concentration, the THP group was partially removed) and then purified by SiO2 column chromatography (heptane/EtOAc=1/0 to 1/3) to give the title compound. 1H NMR (400 MHz, ACETONITRILE-d3) δ 7.81 (d, J=3.79 Hz, 1H), 7.58 (d, J=8.30 Hz, 2H), 7.32 (d, J=8.30 Hz, 2H), 7.08 (s, 1H), 6.99 (d, J=3.79 Hz, 1H), 4.79 (d, J=5.81 Hz, 2H), 4.68 (s, 2H), 4.67 (s, 2H), 3.54-3.63 (m, 2H), 3.05 (t, J=5.80 Hz, 1H), 2.54 (s, 3H), 2.35 (s, 3H), 0.82-0.96 (m, 2H), 0.01 (s, 9H).

reactant | (±)-(7-methyl-4-(((tetrahydro-2H-pyran-2-yl)oxy)methyl)-1-tosyl-1H-indol-5-yl)methanol | 0.466 mmol, 200 mg | CC=1C=C(C(=C2C=CN(C12)S(=O)(=O)C1=CC=C(C)C=C1)COC1OCCCC1)CO | C23H27NO5S
reactant | iPr2EtN | 0.93 mmol, 0.16 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | SEMCl | 0.69 mmol, 0.124 mL | C[Si](C)(C)CCOCCl | C6H15ClOSi
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | (7-Methyl-1-tosyl-5-(((2-(trimethylsilyl)ethoxy)methoxy)methyl)-1H-indol-4-yl)methanol | CC=1C=C(C(=C2C=CN(C12)S(=O)(=O)C1=CC=C(C)C=C1)CO)COCOCC[Si](C)(C)C | C24H33NO5SSi
